US05059728
As another example, 2-trifluoromethyl-1,1,1,4,4-pentafluorobutane may be prepared by reacting commercially available 1,1-difluoroethylene according to the procedure of George L. Fleming et al., supra, to form a product which may then be hydrogenated to form 2-trifluoromethyl-1,1,1,2,4,4-hexafluorobutane which may then be dehydrohalogenated and then hydrogenated to form 2-trifluoromethyl-1,1,1,4,4-pentafluorobutane

reactant | 2-trifluoromethyl-1,1,1,4,4-pentafluorobutane | FC(C(C(F)(F)F)CC(F)F)(F)F | C5H4F8
reactant | 1,1-difluoroethylene | FC(=C)F | C2H2F2
product | 2-trifluoromethyl-1,1,1,2,4,4-hexafluorobutane | FC(C(C(F)(F)F)(CC(F)F)F)(F)F | C5H3F9
